US08877782B2
6-[3-(4-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid
As described for example 91a, 6-[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (1.4 g, 4.2 mmol), instead of 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester, was converted, to the title compound (1.1 g, 78%) which was obtained as a white solid. MS: m/e=327.3 [M−H]−.

reactant | 6-[3-(4-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 4.2 mmol, 1.4 g | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC=C(C=C1)F)=O | C18H15FN2O4
reactant | 6-[3-(3-fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=CC(=CC=C1)F)=O | C18H15FN2O4
product | 6-[3-(4-Fluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid | 1.1 g, 78% | FC1=CC=C(C=C1)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)C | C17H13FN2O4
